US09371321B2
tert-Butyl (S)-3-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidine-1-carboxylate
To a 25 mL pear flask were added the mixture of diastereomers of tert-butyl 3-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidine-1-carboxylate (0.057 g, 0.17 mmol) and 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (0.042 g, 0.25 mmol) in DMSO (1 mL). Triethylamine (0.069 mL, 0.50 mmol) was added and the mixture was heated to 85° C. for 14 hours. The reaction mixture was partitioned between saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over MgSO4, filtered, and concentrated. The crude product was purified by liquid chromatography (SiO2, 25-100% EtOAc/hexanes). The product-containing fractions from two different peaks were pooled separately and concentrated in vacuo to give the title diastereomers. Peak 1 (shorter retention time, 19 mg, 24%): 1H NMR (400 MHz, CDCl3) δ ppm 0.69-0.85 (m, 5H), 1.32-1.51 (m, 22H), 2.15-2.40 (m, 8H), 3.33-3.49 (m, 2H), 3.52-3.86 (m, 8H), 4.70 (dd, J=10.74, 7.45 Hz, 1H), 5.27 (br s, 1H), 5.62-5.75 (m, 1H), 5.82-5.96 (m, 2H), 6.60 (br s, 2H), 6.73 (d, J=8.84 Hz, 1H), 7.19 (s, 2H), 7.33-7.45 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C25H32N8O2, 477. found 477. Peak 2 (longer retention time, 41 mg, 52%): 1H NMR (400 MHz, CDCl3) δ ppm 0.66-0.90 (m, 3H), 1.39-1.52 (m, 15H), 1.88-2.07 (m, 3H), 2.21-2.40 (m, 5H), 3.30-3.89 (m, 10H), 5.02-5.20 (m, 2H), 5.65 (t, J=6.44 Hz, 1H), 6.61 (d, J=3.03 Hz, 1H), 7.14-7.24 (m, 2H), 7.28-7.46 (m, 2H); ESI-MS m/z [M+H]+ calc'd for C25H32N8O2, 477. found 477.

reactant | tert-butyl 3-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidine-1-carboxylate | 0.17 mmol, 0.057 g | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2CN(CC2)C(=O)OC(C)(C)C | C19H28N4O2
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.25 mmol, 0.042 g | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | Triethylamine | 0.50 mmol, 0.069 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | tert-Butyl (S)-3-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidine-1-carboxylate | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)[C@H]2CN(CC2)C(=O)OC(C)(C)C)C#N)C | C25H32N8O2
